* A2D round-trip: analog stimulus -> A2D -> nvc threshold -> D2A -> nout
Vsense nsense 0 PWL(0 0  99n 0  100n 1  200n 1)
I_a2d nsense 0 PWL FILE "code:libcosim_bridge.so:nvc_bridge_init:a2d:ain"
V_d2a nout 0 PWL FILE "code:libcosim_bridge.so:nvc_bridge_init:d2a:dq"
.tran 1n 200n
.print tran V(nsense) V(nout)
.end
