* C:\Users\Claude\Documents\Elements\Examples-92\SIMetrix\Flyback_PSU\flyback.sxsch
*#SIMETRIX
.GRAPH U1_Vp axisType="auto" persistence=2 curveLabel="15V supply"  GUID="5afec633-9d46-463f-8ef8-16ef59556795" disabled=false PROBEREF=Probe3  
R5 Q1_S U1_Sense 1K
V1 R14_P 0  Pulse(0 160  0 1m 1m)
R6 0 R6_N 56m
X$U1 U1_Vout R7_N U1_Vp C2_P U1_Sense R4_N R7_P 0 UC3844 pinnames: Vout Osc Vp Comp Sense Vfb Refv Gnd
R8 R14_P R8_N 1k
C1 R6_N C1_N 680u   
D2 TX2_W3B R4_P D1N4148
X$TX2 R14_P C3_N 0 C5_N 0 TX2_W3B Ideal_TxTX2 pinnames: W1A W1B W2A W2B W3A W3B 
.subckt Ideal_TxTX2 W1A W1B W2A W2B W3A W3B 
L1 W1A W1B 2m 
L2 W2A W2B 20u 
L3 W3A W3B 180u 
K12 L1 L2 990m 
K13 L1 L3 990m 
K23 L2 L3 990m 
.ends 

R9 Q1_S 0 1.8
R7 R7_P R7_N 16k
.GRAPH R4_P axisType="auto" persistence=2 curveLabel="Vsense"  GUID="ee881d94-3f11-47af-a4ec-108c3330679f" disabled=false PROBEREF=Probe2  
R4 R4_P R4_N 18k
.GRAPH C1_N axisType="auto" persistence=2 curveLabel="Output"  GUID="eafbbe3b-2acf-4fbd-9ced-f26b0ae56f67" disabled=false PROBEREF=Probe1  
R3 0 R3_N 1K
X$Q1 C3_N R1_P Q1_S IRFR420 pinnames: D G S
R2 C1_N 0 5
R14 R14_P U1_Vp 47k
R13 R4_N 0 3.3k
R12 R12_P R4_N 15k
R11 0 R11_N 1K
R10 0 R4_P 330
R1 R1_P U1_Vout 100
C3 R8_N C3_N 330p   
D4 TX2_W3B U1_Vp D1N4148
C2 C2_P R12_P 1n   
X$D3 0 U1_Vp BZX79-18 pinnames: P N
D1 C5_N C1_N mur110
C9 R12_P R4_N 330p   
C8 R11_N TX2_W3B 1n   
C7 0 R4_P 1u   
C6 U1_Sense 0 330p   
C5 R3_N C5_N 1n   
C4 R7_N 0 470p   
C11 0 U1_Vp 1u   
.tran 8m
.options minbreak=100p
** uncomment the following line if you experience convergence problems
*.options pivrel=990m

.model D1n4148 D(IS=1.6f RS=1.0 IKF=22m CJO=3p M=0.3 VJ=0.75 ISR=2.6n 
+ BV=70 TT=20n)

.subckt IRFR420 D G S
.model mosfet NMOS( LEVEL=17 VTO=3.81 RS=0.06816 KP=2.149 RD=2.3567 TC1RD=0.0127 RG=15 IS=1e-36
+ CGDMAX=1.00E-09 CGDMIN=1.06E-11 XG2CGD=0.5 XG1CGD=0.1 CBD=6.97E-11 VTCGD=0)
.model diode D( IS=3.50e-13 RS=0.0343 TT=1.657e-06)
M1 D G S S mosfet
D1 S D Diode
Cgs G S 3.18E-10
.ends

.model mur110 D(IS=9p RS=23m IKF=11m CJO=40p M=0.37 VJ=0.75 ISR=820p 
+ BV=100 IBV=100u tt=62n)

.subckt BZX79-18 1 2
D1 1 2 D1
D2 2 3 D2
I1 1 3 1.71956
R1 1 3 10 TC1=0.8374m
.model D1 D IS=9.19e-16 CJO=70p RS=0.57061 ISR=1.36e-08
.model D2 D IS=1.00e-15
.ends

** From psu.sxlib
.subckt UC3844 Vout Osc Vp Comp Sense Vfb Ref Gnd 
A$U2 [U6_OUT U5_IN4] U2_OUT nand
A$U3 [U2_OUT U7_OUT] U5_IN4 nand
X$ARB1 R1_P Sense ARB1_OUT $$arbsourceARB1 pinnames: N1 N2 OUT 
.subckt $$arbsourceARB1 N1 N2 OUT 
B1 OUT 0 V=tanh(v(n1,n2)*1000)*2.5+2.5 
.ends
A$U16 U12_OUT U16_OUT DA
X$U1 Vfb Ref Vp Comp Gnd R5_N $$error_amp_2 pinnames: VINN BIAS VP VOUT VN VINP
A$U17 U9_OUT U17_OUT DA
A$U6 U12_OUT U6_OUT inv
V1 S2_P 0 5V
A$U7 U15_OUT U7_OUT delay1
A$U15 ARB1_OUT U15_OUT AD
A$U4 Vp U4_OUT schmitt
A$U5 [U10_OUT U12_OUT U8_QP U5_IN4] U11_IN1 or
A$U12 Osc U12_OUT schmitt_osc
I2 R1_N Comp 10u
A$U13 U11_OUT U13_OUT DA
A$U10 U4_OUT U10_OUT inv
A$U11 U11_IN1 U11_OUT inv_dead
I1 Gnd I1_N 40m
A$U18 U4_OUT U18_OUT DA
A$VCC2 VCC2_P DIG_VCC
D1 Comp D1_N Diode
D2 D1_N R1_N Diode
D3 R1_P I1_N Diode
Q2 Vp S1_N Vout 0 N1 20
R4 S1_N Gnd 1K
R5 Ref R5_N 10k
X$S4 Osc 0 U16_OUT 0 gen_switch : RON=250 ROFF=100Meg VON=3 VOFF=2 pinnames: P N CP CN
A$U8 VCC2_P U12_OUT U8_SET U8_SET U8_QP U8_QN Toggle
A$GND2 U8_SET DIG_GND
R6 R5_N Gnd 10k
A$U9 U11_IN1 U9_OUT dead
Q1 Vout U17_OUT Gnd 0 N1 20
X$S2 S2_P Ref U18_OUT 0 gen_switch : RON=1 ROFF=100Meg VON=3 VOFF=2 pinnames: P N CP CN
R1 R1_P R1_N 20k
X$S3 Vp 0 U18_OUT 0 gen_switch : RON=1.36k ROFF=30k VON=3 VOFF=2 pinnames: P N CP CN
R2 Gnd R1_P 10k
.ic Osc 0
R3 I1_N Gnd 10
X$S1 Vp S1_N U13_OUT Gnd gen_switch : RON=1  ROFF=1Meg VON=3  VOFF=2  pinnames: P N CP CN
.model inv d_inverter
.model or d_or
.model DIG_GND d_pulldown strong=true out_family="FORCE5"
.model DIG_VCC d_pullup strong=true out_family="FORCE5"
.model toggle d_tff
.model delay1 d_buffer rise_delay=150n fall_delay=150n
.model dead d_buffer rise_delay=20n fall_delay=1n
.model inv_dead d_inverter rise_delay=20n fall_delay=1n
.model nand d_nand
.model and d_and
.model Diode D(IS=1.6f CJO=0.3p M=0.3 VJ=0.75 ISR=2.6n)
.model N1 NPN BF=300 TF=0.5n CJC=0.3p VAF=100
.model P1 PNP BF=150 TF=2n CJC=0.3p VAF=150
.model D1 D
.model schmitt_osc adc_schmitt in_low=1 in_high=3
* 842/4
.model schmitt adc_schmitt in_low=10 in_high=16
* 843/5
*.model schmitt adc_schmitt in_low=7.6 in_high=8.4
.subckt gen_switch 1 2 3 4
S1 1 2 3 4 SW
.model SW VSWITCH RON={ron} ROFF={roff} VON={von} VOFF={voff}
.ends
.model AD adc_bridge 
+ in_low=2.1 
+ in_high=2.2 
+ rise_delay=1e-12 
+ fall_delay=1e-12
+ out_family = "UNIV"
+ out_low = 0
+ out_high = 5
+ clamp_bias=0.5
+ clamp_res=10
.model DA dac_bridge 
+ out_high=5        
+ input_load=-31p   
+ t_rise=2n         
+ t_fall=2n         
+ g_pullup=0.024    
+ g_pulldown=0.034  
+ g_hiz=1e-9        
+ knee_low = 2.0    
+ knee_high =2.75   
+ v_smooth = 0.5    
+ in_family="UNIV"
.subckt $$error_amp_2 VINN BIAS VP VOUT VN VINP
Q8 Q6_C Q6_C VN 0 N1
Q9 Q10_B Q6_C VN 0 N1
V1 D2_N VN 5.5 
Q10 VOUT Q10_B Q10_E 0 N1
C1 C1_P Q10_B 270p
D1 Q10_E VN D1
D2 VOUT D2_N D1
E1 C1_P 0 VOUT 0 1
G2 VP G2_N BIAS VN 20u
Q6 Q6_C R2_P G2_N 0 P1
Q7 Q10_B R3_P G2_N 0 P1
R2 R2_P VINN 2.7k
X$S1 VP VOUT BIAS 0 gen_switch : RON=30k ROFF=1G VON=3 VOFF=2 pinnames: P N CP CN
R3 R3_P VINP 2.7k
.subckt gen_switch 1 2 3 4
S1 1 2 3 4 SW
.model SW VSWITCH RON={ron} ROFF={roff} VON={von} VOFF={voff}
.ends
.model N1 NPN BF=200 TF=0.15n CJC=0.3p VAF=100
.model P1 PNP BF=150 TF=5n CJC=30p VAF=150 RB=100
.model D1 D
.ends
.ends

