* digital buried in a subckt (like the flyback's UC3844)
V1 ain 0 PULSE(0 5 0 1u 1u 5u 10u)
R1 ain anode 1k
X1 anode aout ctrl
R2 aout 0 10k
.subckt ctrl ain aout
A1 ain dnode adc1
A2 dnode dout inv1
A3 dout aout dac1
Rload aout 0 1Meg
.model adc1 adc_bridge in_low=2 in_high=3
.model inv1 d_inverter
.model dac1 dac_bridge out_low=0 out_high=5
.ends
.tran 1n 20u
.end
